US08471005B2
3-Methoxy-2-tributylstannanyl-pyridine (1.31 g, 3.29 mmol) was dissolved in N,N-Dimethylformamide (15 mL), 7-Bromo-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine (0.504 g, 2.06 mmol) and Tetrakis(triphenylphosphine)palladium(0) (161 mg, 0.139 mmol) were added, and the mixture was degassed under vacuum, then under an atmosphere of Nitrogen, was heated in a block at 80° C. for 8 h, then 110 C overnight. Bis(tri-tert-butylphosphine)palladium (45 mg, 0.088 mmol) was added and heating was continued at 110 C for 8 h. The mixture was cooled, conc. in vacuo and applied to a 25 g Isco cartridge (MeOH:DCM), dried and purified (80 g column, 0-70% EtOAc:Hex) to afford 7-(3-Methoxy-pyridin-2-yl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine (0.192 g; Yield=34.1%). LCMS (HPLC):0.78 min, m/z=273 (M+H); 1H-NMR (DMSO-d6): 9.04 (s, 1H), 8.29 (d, 1H, J=4.4 Hz), 7.64 (d, 1H, J=8.4 Hz), 7.50 (dd, 1H, J=4.4, 8.4 Hz), 7.12 (d, 1H, J=4.6 Hz), 7.07 (d, 1H, J=4.6 Hz), 3.83 (s, 3H), 2.38 (s, 3H).

reactant | 3-Methoxy-2-tributylstannanyl-pyridine | 3.29 mmol, 1.31 g | COC=1C(=NC=CC1)[Sn](CCCC)(CCCC)CCCC
reactant | 7-Bromo-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | 2.06 mmol, 0.504 g | BrC1=CC=C2C=NC(=NN21)SC | C7H6BrN3S
reactant | MeOH | CO | CH4O
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | N,N-Dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.139 mmol, 161 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Bis(tri-tert-butylphosphine)palladium | 0.088 mmol, 45 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 7-(3-Methoxy-pyridin-2-yl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | 0.192 g, Yield=34.1% | COC=1C(=NC=CC1)C1=CC=C2C=NC(=NN21)SC | C13H12N4OS
